### PR TITLE
Refactor category theory to use strictly involutive identity types

### PR DESCRIPTION
**Pull request by fredrik-bakke**

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
This one's ready for review :)

Don't get fooled by the similar number of additions and deletions, many of them are disjoint.

File: src/category-theory/adjunctions-large-categories.lagda.md [hunk 1]
```diff
@@ -59,7 +59,7 @@ by the unit of the adjunction.
 
 ## Definition
 
-### The predicate of being an adjoint pair of functors
+### The predicate on functors of being an adjoint pair
```
Comment (EgbertRijke) [inline src/category-theory/adjunctions-large-categories.lagda.md:62]: The previous wording was more accurate, because the predicate is not on functors but on pairs of functors.

File: src/category-theory/adjunctions-large-precategories.lagda.md [hunk 2]
```diff
@@ -60,7 +60,7 @@ by the unit of the adjunction.
 
 ## Definition
 
-### The predicate of being an adjoint pair of functors
+### The predicate on functors of being an adjoint pair
```
Comment (EgbertRijke) [inline src/category-theory/adjunctions-large-precategories.lagda.md:63]: The previous wording was more accurate

**Comment by fredrik-bakke** [comment]
My next planned refactoring (of finite types) depends on this PR, so has to wait until this one has been merged.

**Comment by EgbertRijke** [comment]
> My next planned refactoring (of finite types) depends on this PR, so has to wait until this one has been merged.

What do you want to do with finite types?

**Comment by fredrik-bakke** [comment]
I want to change how the symbol `𝔽` is used. For instance, `Poset-𝔽` should be `Finite-Poset`.

File: src/category-theory/precategories.lagda.md [hunk 3]
```diff
@@ -88,6 +106,33 @@ Precategory l1 l2 =
...
+  Precategory l1 l2
+make-Precategory
+  obj hom-set _∘_ id assoc-comp-hom left-unit-comp-hom right-unit-comp-hom =
+  ( ( obj) ,
+    ( hom-set) ,
+    ( _∘_ , (λ h g f → involutive-eq-eq (assoc-comp-hom h g f))) ,
+    ( id) ,
+    ( left-unit-comp-hom) ,
+    ( right-unit-comp-hom))
+{-# INLINE make-Precategory #-}
```
Comment (EgbertRijke) [inline src/category-theory/precategories.lagda.md:134]:
```suggestion
    ( right-unit-comp-hom))
    
{-# INLINE make-Precategory #-}
```

File: src/group-theory/groups.lagda.md [hunk 4]
```diff
@@ -559,31 +561,25 @@ abstract
...
-          ＝ μ (i' x) e
-            by ap (μ (i' x)) (right-inv-i x)
-          ＝ i' x
-            by right-unit-G (i' x)))
+        ( λ x →
+          ( inv (left-unit-G (i x))) ∙
+          ( ap (λ y → μ y (i x)) (inv (left-inv-i' x))) ∙
+          ( associative-G (i' x) x (i x)) ∙
+          ( ap (μ (i' x)) (right-inv-i x)) ∙
+          ( right-unit-G (i' x))))
```
Comment (EgbertRijke) [inline src/group-theory/groups.lagda.md:569]: I feel a bit bad about removing these reasoning steps. Would you mind writing them up in an informal proof?

File: src/ring-theory/semirings.lagda.md [hunk 5]
```diff
@@ -30,11 +30,13 @@ open import group-theory.semigroups
...
-multiplication, where the addition operation gives the ring the structure of a
-commutative monoid, and the multiplication is associative, unital, and
-distributive over addition.
+The concept of a _semiring_ vastly generalizes the arithmetical structure on the
+[natural numbers](elementary-number-theory.natural-numbers.md). A
+{{#concept "semiring" Agda=Semiring}} consists of a
+[set](foundation-core.sets.md) equipped with addition and multiplication, where
+the addition operation gives the ring the structure of a
+[commutative monoid](group-theory.commutative-monoids.md), and the
+multiplication is associative, unital, and distributive over addition.
```
Comment (EgbertRijke) [inline src/ring-theory/semirings.lagda.md:39]:
```suggestion
The concept of a _semiring_ vastly generalizes the arithmetical structure on the
[natural numbers](elementary-number-theory.natural-numbers.md). A
{{#concept "semiring" Agda=Semiring}} consists of a
[set](foundation-core.sets.md) equipped with addition and multiplication, where
the addition operation gives the semiring the structure of a
[commutative monoid](group-theory.commutative-monoids.md), and the
multiplication is associative, unital, and distributive over addition.
```

File: src/category-theory/precategories.lagda.md [hunk 6]
```diff
@@ -26,21 +27,38 @@ open import foundation.universe-levels
...
+  ```text
+    (h ∘ g) ∘ f ＝ h ∘ (g ∘ f).
+  ```
+- **Identity morphisms.** For every object `x : Ob 𝒞`, there is a distinguished
+  _identity_ morphism `id_x : hom 𝒞 x x`.
+- **Unitality.** The identity morphisms are two-sided units for the composition
+  operation, meaning that for every `f : hom 𝒞 x y` we have
+  ```text
+    id_y ∘ f ＝ f   and   f ∘ id_x ＝ f.
+  ```
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/category-theory/precategories.lagda.md:55]: I don't know about the idea of making them concepts here. This section is supposed to read like an itemized list, and I don't know if this is a supported case for the `concept` macro. Maybe @VojtechStep can weigh in on this?

File: src/category-theory/large-subprecategories.lagda.md [hunk 7]
```diff
@@ -35,62 +39,196 @@ of the objects of `C` indexed by universe levels, and a family of subtypes `P₁
...
-module _
-  {α : Level → Level} {β : Level → Level → Level}
-  {γ : Level → Level} {δ : Level → Level → Level}
-  (C : Large-Precategory α β)
-  (P : Large-Subprecategory γ δ C)
+record
+  Large-Subprecategory
+    {α : Level → Level} {β : Level → Level → Level}
+    (γ : Level → Level) (δ : Level → Level → Level)
+    (C : Large-Precategory α β) : UUω
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/category-theory/large-subprecategories.lagda.md:51]: Did you notice how I interleave `field` blocks with normal definitions to make the other field definitions read better?

**Comment by fredrik-bakke** [comment]
Thanks for the suggestions!

File: src/group-theory/groups.lagda.md (hunk 4 above)
Comment (fredrik-bakke) [reply src/group-theory/groups.lagda.md]: I'll just revert the change for now.

File: src/category-theory/large-subprecategories.lagda.md (hunk 7 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/category-theory/large-subprecategories.lagda.md:51]: :)

**Comment by EgbertRijke** [comment]
This PR can be merged when you're done with the comments.

File: src/category-theory/precategories.lagda.md (hunk 6 above)
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/category-theory/precategories.lagda.md:55]: Ok, let's leave it for now. It was a minor suggestion.

**Comment by fredrik-bakke** [comment]
Great, thanks
